US04874775
N-[2-(4-chlorophenyl)ethyl]-N-(pyridin-4-ylmethyl)-methanesulfonamide
A 7.4 g. portion of 4-[2-(4-chlorophenyl)ethylaminomethyl]pyridine was dissolved in 50 ml. of dichloromethane, and to it were added 4 g. of potassium carbonate and 4 g. of methanesulfonyl chloride. The mixture was stirred at ambient temperature overnight, and then 100 ml. of additional dichloromethane was added, followed by 200 ml. of water. The organic phase was separated, washed with water, dried and concentrated under vacuum. The residue was chromatographed on silica gel, using acetone as the eluant. The product-containing fractions were combined and evaporated, and the residue crystallized upon standing. The solids were triturated with petroleum ether and filtered and dried to obtain 4.0 g. of the desired product, m.p. 96°-99°.

reactant | 4-[2-(4-chlorophenyl)ethylaminomethyl]pyridine | ClC1=CC=C(C=C1)CCNCC1=CC=NC=C1 | C14H15ClN2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | N-[2-(4-chlorophenyl)ethyl]-N-(pyridin-4-ylmethyl)-methanesulfonamide | ClC1=CC=C(C=C1)CCN(S(=O)(=O)C)CC1=CC=NC=C1 | C15H17ClN2O2S
